US05382379
1,1-Ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)-3-cyclohexene (17.3 g) was dissolved in ethanol (200 ml), followed by adding Pd/C (5%) (5 g), carrying out a catalytic reduction with stirring in a hydrogen gas atmosphere, filtering off the catalyst after completion of the reaction, and distilling off the organic layer under reduced pressure, to obtain 1,1-ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexane (15.7 g).

reactant | 1,1-Ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)-3-cyclohexene | 17.3 g | C1OC2(CC=C(CC2)C2=CC(=C(C(=C2)F)C(F)(F)F)F)OC1 | C15H13F5O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 1,1-ethylenedioxy-4-(3',5'-difluoro-4'-trifluoromethylphenyl)cyclohexane | 15.7 g | C1OC2(CCC(CC2)C2=CC(=C(C(=C2)F)C(F)(F)F)F)OC1 | C15H15F5O2
